US07977344B2
2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-9-[2-(tetrahydro-3-furanyl)ethyl]-9H-purin-6-amine
A mixture of 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-1H-purin-6-amine trifluoroacetate (0.16 g, 0.450 mmol) and anhydrous potassium carbonate (0.243 g, 1.762 mmol) in DMF (2.5 ml) was heated at 50° C. for 1 hour. The mixture was cooled to room temperature and 3-(2-bromoethyl)tetrahydrofuran (0.095 g, 0.528 mmol) was added and the mixture heated at 50° C. for 18 hours. The mixture was quenched with water (2 ml) and extracted with DCM (2×5 ml). The DCM was separated through a hydrophobic frit and evaporated by blowing down under a stream of nitrogen. The sample was dissolved in 1:1 MeOH:DMSO (3×0.5 ml) and purified by mass directed autopreparation. Product containing fractions were evaporated under a stream of nitrogen in a blowdown apparatus to give the title compound as a white solid (98 mg).

reactant | 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | 0.450 mmol, 0.16 g | FC(C(=O)O)(F)F.C1(CC1)CCOC=1NC(=C2N=C(N=C2N1)OC)N
reactant | potassium carbonate | 1.762 mmol, 0.243 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(2-bromoethyl)tetrahydrofuran | 0.528 mmol, 0.095 g | BrCCC1COCC1 | C6H11BrO
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-9-[2-(tetrahydro-3-furanyl)ethyl]-9H-purin-6-amine | 98 mg | C1(CC1)CCOC1=NC(=C2N=C(N(C2=N1)CCC1COCC1)OC)N | C17H25N5O3
